US06265411B1
7-Hydroxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (750 mg, 2.7 mmol) was suspended in methylene chloride (40 ml) at 5° C. and 4-(3-hydroxypropyl)morpholine (490 mg, 3.4 mmol) and triphenylphosphine (890 mg, 3.4 mmol) were added. The mixture was stirred for 5 minutes and diethyl azodicarboxylate (590 mg, 3.4 mmol) was added over 5 minutes at 5° C. The reaction mixture was stirred at 5° C. for 30 minutes then at ambient temperature for 1 hour. The solution was then purified directly by column flash chromatography eluting with methylene chloride, and then ethyl acetate, acetonitrile/ethyl acetate (20/80), and acetonitrile/ethyl acetate/ammonia (50/50/0.5). The purified product was triturated with ether/isohexane and collected by filtration to give 7-(3-morpholinopropoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (745 mg, 68%).

reactant | 7-Hydroxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 2.7 mmol, 750 mg | OC1=CC=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O | C14H16N2O4
reactant | 4-(3-hydroxypropyl)morpholine | 3.4 mmol, 490 mg | OCCCN1CCOCC1 | C7H15NO2
reactant | triphenylphosphine | 3.4 mmol, 890 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.4 mmol, 590 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 7-(3-morpholinopropoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 745 mg, 68% | O1CCN(CC1)CCCOC1=CC=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O | C21H29N3O5
